US07820825B2
Preparation of (3′S)-1′-{4-[(1-Ethyl-1H-benzimidazol-2-yl)methyl]benzyl}-1,3′-bipyrrolidine
To a solution of 1,3′-bipyrrolidin-1′-yl(4-((1-ethyl-1H-benzo[d]imidazol-2-yl)methyl)phenyl)methanone (69 mg, 0.172 mmol, 1 eq) in anhydrous tetrahydrofuran (3 mL) was added borane-tetrahydrofuran complex (860 μL, 0.860 mmol, 1 M in tetrahydrofuran) and the reaction mixture has heated to reflux and allowed to stir for 3 h. The reaction mixture was cooled to room temperature, quenched by dropwise addition of methanol, and the solvent was evaporated under reduced pressure. The residue was treated with hydrogen chloride in methanol (5 mL) and heated at reflux for 1 h. The solvent was evaporated under reduced pressure and the residue was partitioned between dichloromethane and 1.0 N aqueous sodium hydroxide. The organic layer was separated and dried (sodium sulfate) and the solvent removed in vacuo. The residue was purified by flash column chromatography to afford the title product (65%). 1H NMR (300 MHz, DMSO-d6): 7.74-7.86 (m, 2 H), 7.43-7.56 (m, 6 H), 6.64 (s, 2 H), 4.62 (s, 2 H), 4.46 (q, 2 H), 4.22 (s, 2 H), 4.00-4.10 (m, 1 H), 3.44-3.55 (m, 1 H), 3.24-3.40 (m, 6 H), 3.09-3.18 (m, 1 H), 2.35-2.45 (m, 1 H), 2.12-2.24 (m, 1 H), 1.91-2.02 (m, 4 H), 1.27 (t, 3 H). 389.22 (M+H).

reactant | 1,3′-bipyrrolidin-1′-yl(4-((1-ethyl-1H-benzo[d]imidazol-2-yl)methyl)phenyl)methanone | 0.172 mmol, 69 mg, 1 eq | N1(CCCC1)C1CN(CC1)C(=O)C1=CC=C(C=C1)CC1=NC2=C(N1CC)C=CC=C2 | C25H30N4O
reactant | borane tetrahydrofuran | 0.860 mmol, 1 M, 860 μL | B.O1CCCC1
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (3′S)-1′-{4-[(1-Ethyl-1H-benzimidazol-2-yl)methyl]benzyl}-1,3′-bipyrrolidine | 65% | C(C)N1C(=NC2=C1C=CC=C2)CC2=CC=C(CN1C[C@H](CC1)N1CCCC1)C=C2 | C25H32N4
